US06673789B2
Preparation 8: (E)-3-(2-Amino-5-chloro-3-pyridinyl)-N-benzyl-N-methyl-2-propenamide
The title compound was prepared from (E)-3-(2-amino-5-chloro-3-pyridinyl)-2-propenoic acid and N-methyl benzylamine as a yellow solid following crystallisation from diisopropyl ether:

reactant | (E)-3-(2-amino-5-chloro-3-pyridinyl)-2-propenoic acid | NC1=NC=C(C=C1/C=C/C(=O)O)Cl | C8H7ClN2O2
reactant | N-methyl benzylamine | CNCC1=CC=CC=C1 | C8H11N
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | (E)-3-(2-Amino-5-chloro-3-pyridinyl)-N-benzyl-N-methyl-2-propenamide | NC1=NC=C(C=C1/C=C/C(=O)N(C)CC1=CC=CC=C1)Cl | C16H16ClN3O
